2125-09-08 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Percutaneous nephrostomy.  Cultures sent GS with many polys
   Confirmation from sister that patient does not normally refuse medical
   care
   Ordered for PICC but not placed
   Linazolid replaced Vanc for h/o VRE
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2125-9-7**] 10:09 PM
   Piperacillin - [**2125-9-8**] 02:00 AM
   Metronidazole - [**2125-9-8**] 04:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Fentanyl - [**2125-9-7**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-9-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-8**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 76 (67 - 94) bpm
   BP: 139/83(97) {90/46(57) - 150/92(105)} mmHg
   RR: 12 (8 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (5 - 16)mmHg
   Total In:
                                                                  4,109 mL
                                                                    246 mL
   PO:
   TF:
   IVF:
                                                                  4,109 mL
                                                                    246 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  1,825 mL
                                                                    465 mL
   Urine:
                                                                  1,825 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,284 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   418 K/uL
   12.8 g/dL
   103 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   40.1 %
   19.0 K/uL
        [image002.jpg]
                             [**2125-9-6**]  11:30 PM
                             [**2125-9-7**]  12:18 AM
                             [**2125-9-7**]  01:23 AM
                             [**2125-9-7**]  04:15 AM
                             [**2125-9-7**]  11:45 AM
                             [**2125-9-7**]  05:25 PM
                             [**2125-9-8**]  02:52 AM
   WBC
   21.0
   20.4
   19.0
   19.0
   Hct
   46.2
   45.6
   41.3
   40.1
   Plt
   374
   368
   426
   418
   Cr
   2.0
   2.0
   2.0
   1.7
   1.6
   TropT
   0.02
   0.02
   TCO2
   29
   Glucose
   [**Telephone/Fax (3) 5146**]08
   103
   Other labs: PT / PTT / INR:13.7/28.6/1.2, CK / CKMB /
   Troponin-T:20/5/0.02, ALT / AST:15/17, Alk Phos / T Bili:97/0.9,
   Differential-Neuts:87.5 %, Lymph:8.8 %, Mono:3.5 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:4.0 g/dL, LDH:164 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: Renal US: Moderate hydronephrosis of the left kidney. Large
   stone seen in
   the left UPJ. Smaller bilateral renal stones.
   Head CT: Left maxillary sinus opacification. Otherwise normal study.
   Microbiology: Nephrostomy GS: 4+ PML
   Urine CX ([**Hospital1 183**]) >[**Telephone/Fax (1) 5147**] suspected pseudomonas
   Culture HX from [**Hospital1 147**], (+) h/o VRE.  Pseudomonas UTI (Pip-tazo, tobra,
   Imipenem, Cefepime, Amikasin sensitive)
   Assessment and Plan
   61 y/o M with PMH of prior CVA, indwelling catheter and multiple prior
   UTIs admitted with shock, likely septic and [**2-3**] urinary tract
   infection.
   Note: No Citalopram while on Vanc
   Needs to change right IJ
   Call [**Hospital1 183**] to f/u sensitivities
   #. Altered mental status: Appears similar to prior episode per review
   of discharge summary and patient is clinically infected. He is oriented
   and appropriate when answering questions and neurologic examination is
   not focal to point to an intracranial process (though somewhat limited
   by language barrier & patient's mental status). The patient also is on
   chronic narcotic pain medications at his NH and received morphine IV at
   the OSH, which could cause somnolence.
   - close monitoring of mental status
   - continue to treat infections
   - obtain non-contrast head CT this PM given h/o CVA and current
   somnolence
   - check ABG to ensure not retaining CO2
   - avoid sedating medications
   #. Hypotension, likely septic in etiology [**2-3**] UTI, improved: The
   patient is now hypertensive after IV fluids. Hypertension could be
   related to autonomic instability (given his neurologic diagnoses)
   though not documented in prior d/c summary.
   - Treat UTI with vancomycin, zosyn
   - repeat UA & urine culture here
   - if urine culture positive, will likely need suprapubic cath replaced
   by urology during admission
   - follow up on B&W culture results on [**9-7**]
   - Continue flagyl for potential C diff/abd process
   - Monitor BP closely & check BP in opposite arm
   - consider arterial line if BP labile or does not correlate
   - check CVP to assess volume status, though clinically currently
   euvolemic
   - if hypotension recurs, consider [**Last Name (un) 45**] stim given prior prednisone
   course
   #. Acute renal failure: Creatinine up to 2.1 at OSH. Repeat here 2.
   Likely secondary to hypotension/hypovolemia from infectious process as
   above. He has fair urine output at present.
   - If not improved, consider renal ultrasound in AM
   - Obtain urine lytes if Cr not improved
   #. Respiratory distress: The patient was hypoxic prior to transfer to
   B&W earlier though no apparent distress currently and lung exam/CXR not
   indicative of pneumonia. Apparently finished course of vanc/cefepime on
   [**9-1**] for aspiration pneumonia.
   - continue supplemental oxygen to maintain sat > 92% and wean as
   tolerated
   - cycle cardiac enzymes given ? prior cardiac ischemia last admission
   - repeat EKG in AM
   #. Abdominal distension: The patient's abdomen is distended but no
   vomiting or abd pain by report. KUB and LFTs/lipase at [**Hospital1 5073**] unrevealing. Given recent abx, concern for C diff with elevated
   WBC count.
   - cover intra-abdominal source with zosyn & flagyl
   - monitor serial abd exams
   - send C diff if has stool output
   # Leg pain: Patient states pain is bilateral and longstanding. On
   gabapentin & oxycodone at nursing facility. Patient complains of pain
   upon waking but does not appear in distress.
   - avoid sedating meds
   - continue to monitor
   - tylenol when taking POs, may resume gabapentin at that time as well
   # Stoma protrusion: Likely benign given that stoma appears pink and is
   soft. No abd tenderness.
   - consider contact surgery in the AM for evaluation
   # DM: On lantus & humalog (with meals & sliding scale) at baseline.
   Will give sliding scale for now and resume prior regimen when taking
   POs.
   #. FEN - NPO for now given mental status. Lyte repletion prn.
   #. PPx - Hep SC TID. PPI (recent gastritis). Bowel meds when taking
   POs.
   # Access: 2 PIVs, R IJ CVL (will need replacement within 24 hours if
   still necessary as placed at OSH)
   #. Code - Full, confirmed with patient's sister, HCP. [**Name2 (NI) 59**] [**Name2 (NI) **] products
   without speaking with sister as patient is [**Name (NI) 5074**] witness.
   # Communication: With patient and sister, [**Name (NI) 4696**] [**Name (NI) 4711**] [**Telephone/Fax (1) 5075**].
   #. Dispo - MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 09:29 PM
   20 Gauge - [**2125-9-6**] 09:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-09-08 11:41:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Sepsis from impacted renal stone s/p IR guided nephrostomy tube
   Prelim Cx at [**Hospital1 183**] pseudomonas
   24 Hour Events:
 ULTRASOUND - At [**2125-9-7**] 10:00 AM
   kidneys, bladder
 STOOL CULTURE - At [**2125-9-7**] 02:51 PM
   sent for ? c-diff
 URINE CULTURE - At [**2125-9-7**] 04:00 PM
   during left nephrostomy red and greq top tubes of urine sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-9-8**] 04:00 AM
   Piperacillin - [**2125-9-8**] 08:24 AM
   Linezolid - [**2125-9-8**] 10:04 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2125-9-7**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-9-7**] 08:00 PM
   Pantoprazole (Protonix) - [**2125-9-8**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-8**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 77 (67 - 81) bpm
   BP: 157/85(103) {106/64(71) - 158/92(107)} mmHg
   RR: 8 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 7 (6 - 16)mmHg
   Total In:
                                                                  4,109 mL
                                                                  1,086 mL
   PO:
                                                                    380 mL
   TF:
   IVF:
                                                                  4,109 mL
                                                                    706 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                  1,045 mL
   Urine:
                                                                  1,825 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,284 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Gen sittin gin chair, NAD< notes swelling of hands and feet
   HEENTo/p clear
   CV: RR
   ChestCTa ant
   Abd soft NT + BS serosang drainage from perc nephrostomy
   Ext: dry and scaling skin
   Neuro conversant and appropriate
   Labs / Radiology
   12.8 g/dL
   418 K/uL
   103 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   40.1 %
   19.0 K/uL
        [image002.jpg]
                             [**2125-9-6**]  11:30 PM
                             [**2125-9-7**]  12:18 AM
                             [**2125-9-7**]  01:23 AM
                             [**2125-9-7**]  04:15 AM
                             [**2125-9-7**]  11:45 AM
                             [**2125-9-7**]  05:25 PM
                             [**2125-9-8**]  02:52 AM
   WBC
   21.0
   20.4
   19.0
   19.0
   Hct
   46.2
   45.6
   41.3
   40.1
   Plt
   374
   368
   426
   418
   Cr
   2.0
   2.0
   2.0
   1.7
   1.6
   TropT
   0.02
   0.02
   TCO2
   29
   Glucose
   [**Telephone/Fax (3) 5146**]08
   103
   Other labs: PT / PTT / INR:13.7/28.6/1.2, CK / CKMB /
   Troponin-T:20/5/0.02, ALT / AST:15/17, Alk Phos / T Bili:97/0.9,
   Differential-Neuts:87.5 %, Lymph:8.8 %, Mono:3.5 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:4.0 g/dL, LDH:164 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: 61 yo M with MMP including prior CVA, neurogenic bladder with
   chronic indwelling suprapubic catheter and recurrent UTIs,  lypmphoma,
   sle with sepsis-- transient hypotension, fevers, leukocytosis,
   with grossly positive
   1. Sepsis: due to impacted renal stone s/p perc drain by IR yesterday
   and now additional data that he also has  by C diff.
   Cover broadly with Linezolid (hx of VRE), zosyn (Pseudomonas at [**Hospital1 183**]).
   F/u cx data from [**Hospital1 183**] with sensi
   C. diff: rx with Flagyl, watch stool output from stoma and low
   threshold for KUB is stops output
   2. ARF: ATN and post obstructive, improving slowly
 may sig more
   improvement with time as drains.
   3. Hyperglycemia: insulin drip held this AM and given glargine
   ICU Care
   Nutrition: [**Doctor First Name 470**] diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-6**] 09:29 PM
 from [**Last Name (LF) 183**], [**First Name3 (LF) 178**] d/c work with 2 PIV
   we have, in for IR guided PICC
   20 Gauge - [**2125-9-6**] 09:29 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with pt and daughter
   [**Name (NI) 66**] status: Full code
   Disposition : possible tx later if stable BP and off insulin drip
   Total time spent: 35